US07420055B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(1H-pyrazole-3-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared by the reaction of 4-t-butylbenzenesulfonyl chloride with (2-Amino-5-chloro-phenyl)-(1H-pyrazol-3-yl)-methanone following the general procedure. MS: m/z 418.1 (M++1). Remove this example—same as [0676 below]

reactant | 4-t-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | (2-Amino-5-chloro-phenyl)-(1H-pyrazol-3-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=NNC=C1 | C10H8ClN3O
product | 4-tert-Butyl-N-[4-chloro-2-(1H-pyrazole-3-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=NNC=C1 | C20H20ClN3O3S
